US08754229B2
Preparation of (4-bromo-2,5-difluorophenyl)trimethylsilane
To a solution of 1,4-dibromo-2,5-difluorobenzene (5 g, 18.4 mmol) in anhydrous Et2O (60 mL) at −78° C. (dry ice/acetone bath) was added n-BuLi (7.72 mL, 19.31 mmol) dropwise. The reaction mixture was stirred at −78° C. for 30 minutes (min) (light yellow color), then TMSCl (2.59 mL, 20.23 mmol) was added. The reaction mixture was allowed to slowly warm to 20° C. and was stirred for 12 h. The reaction mixture was poured into a saturated (satd) aqueous (aq) ammonium chloride solution (NH4Cl; 150 mL), and the crude product was extracted with Et2O (3×). The combined organic layers were washed with satd aq NaCl, dried over MgSO4, filtered and concentrated (orange/brown oil). The residue was purified by column chromatography (silica gel (SiO2), eluting with hexanes) to afford the title compound as a colorless oil (4.17 g, 86%): 1H NMR (400 MHz, CDCl3) δ 7.20 (dd, J=7.1, 5.1 Hz, 1H), 7.09 (dd, J=8.0, 4.4 Hz, 1H), 0.31 (d, J=0.9 Hz, 9H); 19F NMR (376 MHz, CDCl3) δ −105.42, −115.48; EIMS m/z 266.

reactant | 1,4-dibromo-2,5-difluorobenzene | 18.4 mmol, 5 g | BrC1=C(C=C(C(=C1)F)Br)F | C6H2Br2F2
reactant | dry ice acetone | C(=O)=O.CC(=O)C
reactant | n-BuLi | 19.31 mmol, 7.72 mL | [Li]CCCC
reactant | TMSCl | 20.23 mmol, 2.59 mL | C[Si](C)(C)Cl | C3H9ClSi
reactant | ammonium chloride | 150 mL | [Cl-].[NH4+]
solvent | Et2O | 60 mL | CCOCC | C4H10O
product | (4-bromo-2,5-difluorophenyl)trimethylsilane | 4.17 g, 86% | BrC1=CC(=C(C=C1F)[Si](C)(C)C)F | C9H11BrF2Si
